US05219860
Spiro[indane-1,4'-piperidine]hydrochloride (0.4 g, 1.8 mmol) was dissolved in water (20 ml), and the solution made alkaline using solid sodium carbonate. The mixture was extracted with ethyl acetate (5×20 ml), and the organic layers combined and dried (MgSO4). The solvent was removed in vacuo to give spiro[indane-1,4'-piperidine] as a clear oil, which was used without further purification.

reactant | Spiro[indane-1,4'-piperidine]hydrochloride | 1.8 mmol, 0.4 g | Cl.N1CCC2(CC1)CCC1=CC=CC=C12
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | 20 ml | O | H2O
product | spiro[indane-1,4'-piperidine] | N1CCC2(CC1)CCC1=CC=CC=C12 | C13H17N
